US04125729
Methyl α-(3,5-di-tert-butylphenoxy)-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 5.16 g of 3,5-di-tert-butylphenol, 1.188 g of sodium methoxide, and 50 mg of potassium iodide in 40 ml of methanol is added 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene. The solution is heated at reflux overnight and worked up as described in Example 70 to yield a yellow oil which is purified by chromatography on 100 g of silica gel (benzene, 400 ml) and pumped in vacuo at 120° C (0.05 mm) to yield a yellow glass.

reactant | 3,5-di-tert-butylphenol | 5.16 g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)O | C14H22O
reactant | sodium methoxide | 1.188 g | C[O-].[Na+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | Methyl α-(3,5-di-tert-butylphenoxy)-α-[p-(p-chlorophenoxy)phenyl]acetate | C(C)(C)(C)C=1C=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)Cl)C=C(C1)C(C)(C)C | C29H33ClO4
